US09340538B2
Step C: Ethyl 4-(2-bromo-4-fluorophenyl)-2-(5-fluorothiazol-2-yl)-6-methyl-1,4-dihydropyrimidine-5-carboxylate
5-fluorothiazole-2-carboximidamide acetate (0.22 g, 1.07 mmol) was reacted with 2-bromo-4-fluorobenzaldehyde (0.22 g, 1.07 mmol) and ethyl 3-oxobutanoate (0.14 g, 1.07 mmol) according to the procedure as described in Example 1, Step A to give the title compound as a yellow solid (0.21 g, 45%). The compound was characterized by the following spectroscopic data:

reactant | 5-fluorothiazole-2-carboximidamide acetate | 1.07 mmol, 0.22 g | C(C)(=O)O.FC1=CN=C(S1)C(N)=N
reactant | 2-bromo-4-fluorobenzaldehyde | 1.07 mmol, 0.22 g | BrC1=C(C=O)C=CC(=C1)F | C7H4BrFO
reactant | ethyl 3-oxobutanoate | 1.07 mmol, 0.14 g | O=C(CC(=O)OCC)C | C6H10O3
product | Ethyl 4-(2-bromo-4-fluorophenyl)-2-(5-fluorothiazol-2-yl)-6-methyl-1,4-dihydropyrimidine-5-carboxylate | 0.21 g, 45% | BrC1=C(C=CC(=C1)F)C1N=C(NC(=C1C(=O)OCC)C)C=1SC(=CN1)F | C17H14BrF2N3O2S
